US06114361
(2R, 4S)4-(4-Methoxyphenyl)-5-oxopyrrolidine-2-carboxylic acid hydroxyamide
A solution of (2R, 4S)-4-(4-methoxyphenyl)-5-oxopyrrolidine-2-carboxylic acid benzyloxyamide (150 mg, 0.44 mmol) in methanol (15 mL) was treated with 5% palladium on barium sulfate (40 mg) and hydrogenated in a Parr™ shaker at 3 atmospheres pressure for 2.5 hours. The catalyst was removed by filtration and the solvent was evaporated to provide a solid. The title compound (106 mg, 96%) was isolated by crystallization from a mixture of ethyl acetate and hexane.

reactant | (2R, 4S)-4-(4-methoxyphenyl)-5-oxopyrrolidine-2-carboxylic acid benzyloxyamide | 0.44 mmol, 150 mg | C(C1=CC=CC=C1)ONC(=O)[C@@H]1NC([C@@H](C1)C1=CC=C(C=C1)OC)=O | C19H20N2O4
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
solvent | methanol | 15 mL | CO | CH4O
catalyst | palladium on barium sulfate | 40 mg | [Pd] | Pd
product | (2R, 4S)4-(4-Methoxyphenyl)-5-oxopyrrolidine-2-carboxylic acid hydroxyamide | 106 mg, 96% | ONC(=O)[C@@H]1NC([C@@H](C1)C1=CC=C(C=C1)OC)=O | C12H14N2O4
